US05166198
9-[4-(Diethoxyphosphoryl)butoxy]guanine
A solution of 6-chloro-9-[4-(diethoxyphosphoryl)butoxy]-2-formamidopurine (0.220 g, 0.54 mmol) in 80% formic acid (5 ml) was stirred at 80° C. for 5 hr. The solvent was evaporated under vacuum and the residue coevaporated with toluene (2×10 ml). The residue was chromatographed on silica gel (eluted with chloroform-ethanol 9:1) to give the title compound (0.148 g, 76%). 1H NMR: δH ((CD3)2SO) 1.22 (6H, t, J=7 Hz, (OCH2CH3)2), 1.64 (2H, m, CH2P), 1.79 (4H, m, CH2CH2), 3.9 (4H, m, (OCH2CH3)2), 4.26 (2H, t, NOCH2), 6.67 (2H, br.s, D2O exchangeable, NH2), 7.96 (1H, s, H-8), 10.75 (1H, br.s, D2O exchangeable, NH).

reactant | 6-chloro-9-[4-(diethoxyphosphoryl)butoxy]-2-formamidopurine | 0.54 mmol, 0.220 g | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCCCP(=O)(OCC)OCC | C14H21ClN5O5P
reactant | formic acid | 5 ml | C(=O)O | CH2O2
product | 9-[4-(Diethoxyphosphoryl)butoxy]guanine | 0.148 g, 76% | C(C)OP(=O)(OCC)CCCCON1C=2N=C(NC(C2N=C1)=O)N | C13H22N5O5P
